US05744426
Ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-2-cyanooxirane-2-carboxylate (Ib.265)
1.4 g (12 mmol) of 30% strength aqueous hydrogen peroxide solution were added to 2.7 g (6 mmol) of ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)Phenyl)-2-cyanopropenoate in 30 ml of ethanol. After 12 hours the mixture was poured into water. The product was extracted from the aqueous phase using ethyl acetate, after which the organic phase was dried over magnesium sulfate and then concentrated. Purification of the crude product was carried out by means of column chromatography on silica gel (eluent: hexane/ethyl acetate=4:1). Yield: 1 g.

reactant | hydrogen peroxide | OO | H2O2
reactant | ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)Phenyl)-2-cyanopropenoate | 6 mmol, 2.7 g | ClC1=C(C=C(C(=C1)Cl)C1=NN(C(=C1Cl)OC(F)F)C)C=C(C(=O)OCC)C#N | C17H12Cl3F2N3O3
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-2-cyanooxirane-2-carboxylate | ClC1=C(C=C(C(=C1)Cl)C1=NN(C(=C1Cl)OC(F)F)C)C1C(O1)(C(=O)OCC)C#N | C17H12Cl3F2N3O4
